US08957068B2
To a mixture of CDI (388 mg, 2.394 mmol) in THF (1.5 mL) was added slowly a solution of 4-(amino(phenyl)methyl)tetrahydro-2H-pyran-4-ol (451 mg, 2.176 mmol) in THF (3 mL). The mixture was stirred under argon for ˜5 hours. The mixture was diluted with saturated aqueous NaHCO3 solution and DCM. The separated aqueous layer was extracted with DCM (2×) and the combined organic layers were washed with 0.5N aqueous HCl solution and brine, dried over sodium sulfate, filtered off and concentrated under reduced pressure. The residue was purified by column chromatography [SiO2, 12 g, 0-100% heptane/ethyl acetate] providing 4-phenyl-1,8-dioxa-3-azaspiro[4.5]decan-2-one as a white solid. Yield: 330 mg. LCMS m/z 234.1 (M+H)+; Rt 0.52 min.

reactant | CDI | 2.394 mmol, 388 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-(amino(phenyl)methyl)tetrahydro-2H-pyran-4-ol | 2.176 mmol, 451 mg | NC(C1(CCOCC1)O)C1=CC=CC=C1 | C12H17NO2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-phenyl-1,8-dioxa-3-azaspiro[4.5]decan-2-one | C1(=CC=CC=C1)C1NC(OC12CCOCC2)=O | C13H15NO3
